US04801593
Benzyl-2-hydroxyphenyl ketone (29.0 g) and formamide (29.0 g). were heated together at 208° for 1 hr. The reaction mixture was cooled and diluted with water. The oily product was extracted into chloroform and the solution washed with water, dried and evaporated. The residue was chromatographed on alumina, eluting with toluene, and the product recrystallised once from petroleum ether (80°-100°) and once from toluene to yield isoflavone (3.55 g), m.pt. 132°-134°

reactant | Benzyl-2-hydroxyphenyl ketone | 29.0 g | C(C1=CC=CC=C1)C=1C(=C(C=CC1)C(=O)C1=C(C(=CC=C1)CC1=CC=CC=C1)O)O | C27H22O3
reactant | formamide | 29.0 g | C(=O)N | CH3NO
solvent | water | O | H2O
product | isoflavone | 3.55 g | O1C=C(C(=O)C2=CC=CC=C12)C1=CC=CC=C1 | C15H10O2
